US08084448B2
A. 2-Benzyl-3-(3-benzyloxy-4-nitrophenyl)-1-phenylpropan-1-one
To a solution of 1,3 diphenylpropan-1-one (231 mg, 1.1 mmol) in THF (2.5 mL) at −78° C. is added dropwise LiHMDS (1M in THF, 1.3 mL), over a period of 15 min. The mixture is stirred at −78° C. for 30 min then a solution of 2-benzyloxy-4-bromomethyl-1-nitrobenzene (321 mg, 1 mmol) in THF (2.5 mL) is added over a period of 15 min. The mixture is stirred at −78° C. for 15 min, then allowed to slowly warm to RT and stirred there for 45 min. The mixture is diluted with EtOAc, cooled to −25° C. and a solution of saturated ammonium chloride is added dropwise. The organic phase is washed with saturated ammonium chloride and brine, dried over MgSO4, filtered and concentrated to afford crude product which is purified using flash chromatography to give the title compound as a gum.

reactant | 1,3 diphenylpropan-1-one | 1.1 mmol, 231 mg | C1(=CC=CC=C1)C(CCC1=CC=CC=C1)=O | C15H14O
reactant | LiHMDS | 1M, 1.3 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-benzyloxy-4-bromomethyl-1-nitrobenzene | 1 mmol, 321 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CBr)[N+](=O)[O-] | C14H12BrNO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Benzyl-3-(3-benzyloxy-4-nitrophenyl)-1-phenylpropan-1-one | C(C1=CC=CC=C1)C(C(=O)C1=CC=CC=C1)CC1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1 | C29H25NO4
